US06248770B1
a. 5-(4-chlorophenyl)-imidazolidin-2,4-dione
15.0 g (0.11 mol) of 4-chlorobenzaldehyde, 51.3 g (0.53 mol) of ammonium carbonate and 7.6 g (0.12 mol) of potassium cyanate are stirred in 150 ml water and 150 ml methanol for 18 hours at 55° C. The solvent is distilled off, the residue dissolved in water and extracted with ethyl acetate. The combined organic extracts are dried and concentrated by evaporation.

reactant | 4-chlorobenzaldehyde | 0.11 mol, 15.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | ammonium carbonate | 0.53 mol, 51.3 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanate | 0.12 mol, 7.6 g | [O-]C#N.[K+]
reactant | methanol | 150 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 5-(4-chlorophenyl)-imidazolidin-2,4-dione | ClC1=CC=C(C=C1)C1C(NC(N1)=O)=O | C9H7ClN2O2
